US06333346B1
4-(3′,4′,5′-trimethoxyphenylureido)-2(5H)-furanone
A mixture of 3,4,5-trimethoxyphenylurea (400 mg) and ethyl-4-chloroacetoacetate (350 mg) in dioxane (0.8 ml) is heated at reflux for 4 hours. After one hour at 25° C. the precipitate is recovered by filtration and recrystallized from methanol (3 ml), to give 210 mg of product.

reactant | 3,4,5-trimethoxyphenylurea | 400 mg | COC=1C=C(C=C(C1OC)OC)NC(=O)N | C10H14N2O4
reactant | ethyl-4-chloroacetoacetate | 350 mg | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
solvent | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
product | 4-(3′,4′,5′-trimethoxyphenylureido)-2(5H)-furanone | 210 mg | COC=1C=C(C=C(C1OC)OC)NC(NC1=CC(OC1)=O)=O | C14H16N2O6
